US05858995
A mixture of 3-(2-aminothiazol-4-yl)-2-methyl-7-nitrobenzo[b]furan hydrochloride (468 mg), acetic anhydride (306 mg) and triethylamine (455 mg) in 1,2-dichloroethane (20 ml) was refluxed for 1 day. To the reaction mixture was added methanol and the mixture was evaporated in vacuo. The residue was purified by column chromatography on silica gel and the obtained oil was crystallized from diethyl ether to give 3-(2-acetylaminothiazol-4-yl)-2-methyl-7-nitrobenzo[b]furan (305 mg).

reactant | 3-(2-aminothiazol-4-yl)-2-methyl-7-nitrobenzo[b]furan hydrochloride | 468 mg | Cl.NC=1SC=C(N1)C=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-]
reactant | acetic anhydride | 306 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 455 mg | C(C)N(CC)CC | C6H15N
reactant | methanol | CO | CH4O
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 3-(2-acetylaminothiazol-4-yl)-2-methyl-7-nitrobenzo[b]furan | 305 mg | C(C)(=O)NC=1SC=C(N1)C=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | C14H11N3O4S
